US06130217
2-[(Thiazol-2-yl)thio]phenol
To 2-methoxybenzenethiol (2.8 g, 20 mmol), and 2-bromothiazole (3.29 g, 20 mmol) in dry DMF (30 mL) under N2 (g) was added Me4N+OH-.5H2O (3.62 g, 20 mmol). The stirred mixture was heated to about 100° C. for 16 hours. Isolation of the methoxyphenyl intermediate, and its subsequent deprotection to the desired product with BBr3 was accomplished according to the method described in Preparation 16 (yield 81%; GC-MS m/z 209).

reactant | 2-methoxybenzenethiol | 20 mmol, 2.8 g | COC1=C(C=CC=C1)S | C7H8OS
reactant | 2-bromothiazole | 20 mmol, 3.29 g | BrC=1SC=CN1 | C3H2BrNS
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-[(Thiazol-2-yl)thio]phenol | yield 81% | S1C(=NC=C1)SC1=C(C=CC=C1)O | C9H7NOS2
